data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,971,"C1=CC=C(CC(C2NCCC3=C2NC2=C3C=CC=C2)=[O+:1][H:2])C=C1.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,364,"CCC(C)CC(=O)[O-:1].CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:2](C(CCCCC(C)C)C(OC1=CC=CC=C1)C(=O)[O-])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9238,"CCOC(=O)[C:1]1([H:2])CCC[C:3]1=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2322,"CC=[O+][Si-:1](C)(C)(C)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,6577,"CCCCCCCC[O+:1](C(O)(O)CCC)[H:2].CCCCCCCC[OH:3].O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6204,"CCO[C:1](CCC=O)([OH:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,779,"CC1C[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8888,"C1COC(C[CH:1]=[O:2])O1.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7470,"CC1[CH2:1][O:2]1.[Li][Cu:3]([CH2]C=C)[CH2:4]C=C|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4787,"CCOC(=O)[CH-:1]S[C:2]1=[N+:3]2C(C3=CC=CC=C3)COC2(C)CCC1.CC[NH+](CC)CC.[Br-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,212,"Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C=C(C(=O)OC)C(C)[O-:2].O=C1CCC(=O)N1|(2, 1)"
train,pmechdb_split_0,0,2628,"C(CC[OH:1])C[CH:2]1C[OH+:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6275,"CC1(C)OC(C2=CC=C([N+](=O)[O-])C=C2)[O+:1]([H:2])C1(C)C.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8005,"O=C1NC(=C([N+](=O)[O-])[N+](=O)[O-])N[C:1](O)([OH:2])[C:3]1([N+](=O)[O-])[N+](=O)[O-].O=S(=O)(O)O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8648,"CCCCCCN1CCC23C4=C5C=CC(OC)=C4OC2C(=[O+:1][H:2])CCC3C1C5.CCCCCC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10180,"N[CH+:1][SH:2]|(2, 1)"
train,pmechdb_split_0,0,2934,"C=C[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8577,"CCOCC.C[NH:1]C.O=P(Cl)(Cl)Cl.OC1=CC=C([C:2]2([H:3])C(=[O+][B-](F)(F)F)C3=C(C=C(O)C=C3O)[O+:4]=[CH:5]2)C=C1.[Cl-]|(1, 3);((3, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9267,"C[SH+:1][S:2]C.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4412,"CC(O[Si-](C)(C)(C)OS(C)(=O)=O)=[O:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8736,"C[C:1]([CH:2](CO)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8516,"OCC=CC[O-:1].[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9857,"CCO[C:1](CCC(=O)N(C)C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2559,"CCCCC[C:1](C(C)C)=[O+:2][Mg-:3]([Cl])[CH:4](C)[CH2:5][H:6]|((3, 4), 5);((5, 6), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7478,"O=S(=O)(O)[C:1]1([H:2])OC=C[C+:3]1Br.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4125,"CC(=O)O.CCCCOCC1C(OCCCC)C=C(CC2=C([OH:1])C=CC(C)=C2)[CH:2]=[O+:3]1.CCCCO[B-](F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2602,"CC(C)=[O+:1][H:2].C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9111,"CC[O+:1](C(C)([O-])Cl)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9819,"CC(=O)[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9335,"C[C:1](C)=[O+:2]CCC[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9883,"CC(C)(C)[OH:1].CCC[C+:2](C)C|(1, 2)"
train,pmechdb_split_0,0,6067,"C[CH+:1][O:2][H:3].[OH-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,7018,"C=C1CCCC2C[C:1]([N:2]3CCCC3)=[CH:3]CC12.CCOC(=O)[CH:4](C)[Br:5]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5551,"BrC(Br)Br.BrCCOC1=CC=C(OCC[O-:1])C=C1.Br[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,112,"CC1CC(=NO[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.CC1CC(=N[OH2+])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7320,"CC(CCCO[Si](C)(C)C(C)(C)C)C1CCC=C1[O+:1]([Si](C)(C)C)[Li-:2][NH+](C(C)C)C(C)C.[Cl-]|((2, 1), 1)"
train,pmechdb_split_0,0,4578,"C=C(C)C1OC2(C)CCC3C(=C2CC1O[I:1]1(OC(C)=O)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2)CCC1COC(=O)C13C.CC(=O)O|((1, 2), 2)"
train,pmechdb_split_0,0,259,"C=C(C)C(OS(C)(=O)=O)C1OC1C(C)(C)[O:1][H:2].CC(C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4836,"CC12CC[C:1]([O-:2])=[CH:3][C:4]1([OH:5])CCCC2=O.O|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7081,"C1=CC=NC=C1.CC(C)(C)[Si:1](C)(C)Cl.OC1C=CCC1CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,8500,"CO[C+:1]1C=CC(C)=C[C:2]1(N=NC1=CC=CC=C1)[H:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6212,"C[CH2][Sn]([CH2]C)([CH2]C)[CH2][CH:1]=[CH2:2].[Cl-].[Cl][Zn-]([Cl])[O+:3]=[CH:4]C1=CC=CC=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,2679,"O=C(O)CCC[CH:1]=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9998,"[C-]#CC[O-:1].[H:2][NH3+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7900,"CC[N:1](CC)CC.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
